US04725600
A suspension of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-methylpyrimidin-4-one (2.4 g) in phosphorus oxychloride (20 ml) was refluxed for 2 hours, and evaporated. To the residue were added aqueous sodium bicarbonate solution and chloroform, and stirred at ambient temperature for 2 hours. The organic layer was obtained and washed with water. After evaporated, the residue was dissolved in ethyl acetate-diisopropyl ether mixture (1:6 v/v). The precipitates were filtered off, and the filtrate was evaporated to give 4-chloro-6-(3,4-dimethoxyphenyl)-2-methylpyrimidine (2.09 g).

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2-methylpyrimidin-4-one | 2.4 g | COC=1C=C(C=CC1OC)C1=CC(NC(=N1)C)=O | C13H14N2O3
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-(3,4-dimethoxyphenyl)-2-methylpyrimidine | 2.09 g | ClC1=NC(=NC(=C1)C1=CC(=C(C=C1)OC)OC)C | C13H13ClN2O2
